US04056269
One hundred parts of cis-polybutadiene were blended on a mill with 17 parts of zinc oxice. 22.2 parts of methacryalic acid was slowly added and blended until thoroughly dispersed. After a few minutes there was very little odor of methacrylic acid from the stock, indicating that the acid had thoroughly reacted with the zinc oxide to form zinc dimethacrylate. 6.3 parts of Di-Cup 40-C was then blended into the rubber. Golf balls were molded as in Example 3.

reactant | zinc | [Zn] | Zn
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | zinc oxide | [O-2].[Zn+2]
product | zinc dimethacrylate | C(C(=C)C)(=O)[O-].C(C(=C)C)(=O)[O-].[Zn+2] | InChI=1S/2C4H6O2.Zn/c2*1-3(2)4(5)6;/h2*1H2,2H3,(H,5,6);/q;;+2/p-2
